US04178377
EXAMPLE 6: 2-(4-hydroxy-1-phenethyl-4-piperidyl)-N,N-dimethyl propionamide [process variant (a)]
2-(4-hydroxy-4-piperidyl)propionic acid N,N-dimethylamide and phenethyl bromide are reacted in a manner analogous to that described in Example 3. The resulting crude title compound is dissolved in ethanol, the calculated amount of furmaric acid is added and subsequently ether is added until the solution becomes turbid. The resulting hydrogen fumarate form of the title compound has a M.P. of 188°-189° after recrystallization from ethanol/ether.

reactant | 2-(4-hydroxy-4-piperidyl)propionic acid N,N-dimethylamide | CN(C(C(C)C1(CCNCC1)O)=O)C | C10H20N2O2
reactant | phenethyl bromide | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-hydroxy-1-phenethyl-4-piperidyl)-N,N-dimethyl propionamide | OC1(CCN(CC1)CCC1=CC=CC=C1)C(C(=O)N(C)C)C | C18H28N2O2
